US08207344B2
2: [1-(1-Trifluoromethyl-cyclopropylmethyl)-piperidin-4-yl]-methanol
1-(1-Trifluoromethyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester (50 g; 170.48 mmol) in tetrahydrofuran (350 mL) is added to a solution of 1 M lithium aluminum hydride (170.48 mL; 170.48 mmol) in tetrahydrofuran. The reaction mixture is allowed to warm to room temperature and stirred for 1 h. The reaction mixture is cooled at 0° C. and water/2 M aqueous solution of sodium hydroxide/water (1:3:1) are added sequentially (8.5 mL:12 mL:8.5 mL). The resulting slurry is filtered over a celite® pad and washed with tetrahydrofuran (200 mL). The organic layer is concentrated under controlled vacuum to afford 17 g of the volatile title compound as colorless oil. The crude material is used without further purification. MS (m/z) 238 (M+1).

reactant | 1-(1-Trifluoromethyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester | 170.48 mmol, 50 g | C(C)OC(=O)C1CCN(CC1)C(=O)C1(CC1)C(F)(F)F | C13H18F3NO3
reactant | lithium aluminum hydride | 170.48 mmol, 1 M, 170.48 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2 M | O | H2O
reactant | sodium hydroxide water | [OH-].[Na+].O
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | [1-(1-Trifluoromethyl-cyclopropylmethyl)-piperidin-4-yl]-methanol | 17 g | FC(C1(CC1)CN1CCC(CC1)CO)(F)F | C11H18F3NO
